US07582769B2
3-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-propionic acid
Prepared in a similar manner to [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid via dicyclohexylamine and 3-(2-amino-thiazole-5-sulfonylamino)-propionic acid ethyl ester to give the title compound.

reactant | [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)NCC(=O)O)=O)C1CCCCC1 | C18H28N4O5S2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 3-(2-amino-thiazole-5-sulfonylamino)-propionic acid ethyl ester | C(C)OC(CCNS(=O)(=O)C1=CN=C(S1)N)=O | C8H13N3O4S2
product | 3-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)NCCC(=O)O)=O)C1CCCCC1 | C19H30N4O5S2
